US07144908B2
ii) 1-{4-[(6-Bromohexyl)oxy]but-1-ynyl}-3-nitrobenzene
A mixture of 1-iodo-3-nitrobenzene (3 g), 6-bromohexyl but-3-ynyl ether (3 g), bis(triphenylphosphine)palladium (II) chloride (0.421 g), copper (I) iodide (0.114 g) in DMF (10 ml) and diisopropylethylamine (4 ml) was stirred under nitrogen at 20° C. for 5 h. The mixture was concentrated under reduced pressure and the residue was diluted in EtOAc and washed with 2M HCl, NaHCO3, brine and dried (MgSO4). The solvent was removed by evaporation and the residue was chromatographed on a Biotage column eluting with ether:petroleum ether(40–60° C.) (1:9) to give the title compound (4.12 g). LCMS RT=4.14 min

reactant | 1-iodo-3-nitrobenzene | 3 g | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | 6-bromohexyl but-3-ynyl ether | 3 g | C(CC#C)OCCCCCCBr | C10H17BrO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | diisopropylethylamine | 4 ml | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.421 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 0.114 g | [Cu]I
product | 1-{4-[(6-Bromohexyl)oxy]but-1-ynyl}-3-nitrobenzene | 4.12 g | BrCCCCCCOCCC#CC1=CC(=CC=C1)[N+](=O)[O-] | C16H20BrNO3
